US04245108
15 ml of liquid ammonia was charged into a 50 ml flask and 0.2 g (8.7 mmols) of sodium metal was dissolved therein in the presence of a catalytic amount of ferric nitrate thereby forming a liquid ammonia suspension of sodium amide. Thereafter, 1.22 g (3.63 mmols) of 2-phenylthio-2-(3-phenoxyphenyl)acetic acid prepared as described in Example 1 dissolved in 10 ml of diethyl ether was added dropwise to the above suspension of sodium amide. The reaction mixture was then stirred for 30 minutes at a temperature of -40° C. and a solution of 0.75 g (5.3 mmols) of methyl iodide in 5 ml of diethyl ether was added to the reaction mixture which was then stirred for further 30 minutes at -40° C. The reaction mixture was then allowed to warm slowly by removing the cooling bath used and finally heated while refluxing for 15 minutes to complete the reaction. 30 ml of water was added to the reaction mixture to dissolve any solid substances and the mixture was rendered acidic with 1 N hydrochloric acid followed by being extracted with diethyl ether. The etherial extract was dried over anhydrous sodium sulfate and concentrated to obtain 1.23 g of a crude 2-phenylthio-2-(3-phenoxyphenyl)propionic acid. The resulting crude product was then purified by silica gel column chromatography eluting with diethyl ether-hexane (1:5 by volume) to obtain 1.10 g (87% yield) of the above product in a substantially pure form.

reactant | ammonia | N | H3N
reactant | sodium amide | [NH2-].[Na+]
reactant | 2-phenylthio-2-(3-phenoxyphenyl)acetic acid | 3.63 mmols, 1.22 g | C1(=CC=CC=C1)SC(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C20H16O3S
reactant | methyl iodide | 5.3 mmols, 0.75 g | CI | CH3I
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
product | 2-phenylthio-2-(3-phenoxyphenyl)propionic acid | 1.23 g | C1(=CC=CC=C1)SC(C(=O)O)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C21H18O3S
